data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9432,"CC(O)C[CH:1](C[S:2]C1=CC=CC=C1)[OH2+:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1595,"OC1([N:1]2CCCC2)CCCCC1Cl.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,417,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C[C+:4]1O|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,5973,"CS(=O)(=O)C1=CC=C(C2=CC=C([NH2:1])C=C2)C=C1.O.O=S(=O)([O-])[O-].[N:2]#[O+:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1928,"C1=CC=[NH+]C=C1.CCC(=O)O[C:1](C(CC1CCCCC1)[NH:2][C:3](CC)=[O:4])=[O:5].CCC(=O)[O-]|(2, 3);((3, 4), 1);((1, 5), 5)"
train,pmechdb_split_0,0,7050,"CCCCCCCCC=CCCCCCCCC(=O)[O-].CCCCCCCCC=CCCCCCCCC([O-])([N+]1=CC=C(N(C)C)C=C1)[O+:1](CC1=CC=CC=C1)[H:2].CN(C)C1=CC=[N:3]C=C1.O=C(NC1CCCCC1)NC1CCCCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2216,"C[P+:1](C)(O)[O:2][CH3:3].[I-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1698,"CC[O:1][C:2](C)(CC1=CC=NC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5275,"O=C(CC(=O)[O:1][H:2])CC1=CC=CC=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3614,"C1C[N+:1]2([H:2])CCN1CC2.CCOC([O-])=C(C[N+]12CCN(CC1)CC2)C(C1=C(OC)C=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8128,"CC(C)[O-].CCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2=CC=CC=C2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2445,"CC(C)[CH2][Al-]([OH])([CH2]C(C)C)[O:1]C(=CCC1=CC=CC=C1)C1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,734,"C1=CC=C([CH:1]=[O:2])C=C1.CCO.CC[N+]1=[C-:3]SC(CCO)=C1C.CC[NH+](CC)CC.COC1=CC=C(C=CC(=O)C2=CC=C(OC)C=C2)C=C1.[Br-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2154,"CCNCCC(N)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8861,"C=CCOC(=O)CC1=CC=C(C2=CC=C(OCC3=CC=C(C(F)(F)F)C(OCC=C)=C3C(=O)[O-])C=C2)C=C1.CC(C)[OH:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,3173,"CC(=O)[C:1](C)([H:2])[C:3](C)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,490,"C[P+:1](C)(C)[O:2][H:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4114,"C=CCN1CCC23C4=C(C=CC(OC)=C4O)CC1C2CC(OC)[C:1](=[OH+:2])[CH:3]3[H:4].C=CC[N:5]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CS(=O)(=O)[O-]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9597,"CCC[O+:1](COC)[B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,5087,"C[CH:1]([N-:2]C)[O:3][AlH2]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1518,"Br[B:1](Br)Br.C[O:2]C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5C2=CC=CC=C2)C=C1|(2, 1)"
train,pmechdb_split_0,0,1424,"O=[N+]([O-])C1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,7166,"C=CCC(OC)=[NH:1].[Cl-].[Na][OH+:2][Cl:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5552,"C=CC(NCC)(OC(C)=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9600,"CC(=O)[O:1][H:2].O=C(CCC([NH2+]CC1=CC=CC=C1)(C1=CC=CC=C1)[O-:3])C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7497,"CC=C(O[B:1](C1CCCCC1)C1CCCCC1)C(C)COCC1=CC=CC=C1.CCC=C(C)C=[O:2]|(2, 1)"
train,pmechdb_split_0,0,4272,"C1=CC=[N+]2C(=C1)C[S:1][N+:2]1=C2NC2=C1C=CC=C2.CC[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6342,"CC(=O)[O:1][CH:2](O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5155,"C[CH:1]([H:2])[C+:3](C)C=O.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5746,"Br[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4929,"CO[C:1](=[O:2])[CH:3]=[CH2:4].C[C:5](=[CH2:6])[N:7]1CCCC1|(7, 5);((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2364,"C1=CC=C([N-][N+:1]#[N:2])C=C1.CN(C)[P:3]1OC2=C(C=CC=C2)O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,137,"O=C(CCCC1=CC=CC=C1)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,2360,"CCC[CH+:1][C:2](C)(C=NC(C)(C)C)[Si-:3](CC)(CC)(CC)OC(=O)C(F)(F)F.O|((3, 2), 1)"
train,pmechdb_split_0,0,3004,"C=C(C)C1CC=C(C)C(OP(OCC)(OCC)=[O:1])C1.[CH3][Al:2]([CH3])[O]C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,6916,"C=CCOC(=O)CC1=CC=C(C2=CC=C(OCC3=CC=C(C(F)(F)F)C(OCC=C)=C3C(=O)[O:1][H:2])C=C2)C=C1.CC(C)O.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9172,"C[C:1]1([O-:2])OCCC(=O)[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4395,"COC(=O)C12C[C:1]([O-:2])=[C:3](C)[C:4]1([OH:5])CCC2C|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9719,"CC(C)C(C)[OH:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7344,"OB[O:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9612,"C=CC(C)=O.COC(=O)[C:1]1([H:2])CCCC(Br)[C:3]1=[OH+:4].O=S(=O)(O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7618,"CC(CC=CI)[CH:1]=[O+:2][B-](F)(F)F.CC(CO[Si](C)(C)C(C)(C)C)C1O[Si](C(C)C)(C(C)C)OC(C(C)C(O[Si](C)(C)C(C)(C)C)C(C)[C:3](=[CH:4]C)[O:5][Si](C)(C)C(C)(C)C)C1C.CCOCC|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2425,"CCO[C:1]1([Cl:2])C=CC=C[C-:3]1[N+](=O)[O-]|(3, 1);((1, 2), 2)"
